US08871937B2
7-((6-methylpyridin-2-ylamino) (3,4-difluorophenyl)methyl)quinolin-8-ol
The title compound was prepared by method B presented for the compound of Example 1 with the change that 3,4-difluorobenzaldehyde was reacted with 2-amino-6-picoline and 8-hydroxy-quinoline. White powder precipitated, C22H17F2N3O, (MW: 377.1); yield; 275 mg (53.3%). m.p.: 162-165° C.; HPLC (CH3CN/H2O 70:30 Phenomenex C18 282 nm): 7.97 min.

reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 2-amino-6-picoline | NC1=NC(=CC=C1)C | C6H8N2
reactant | 8-hydroxy-quinoline | OC=1C=CC=C2C=CC=NC12 | C9H7NO
product | 7-((6-methylpyridin-2-ylamino) (3,4-difluorophenyl)methyl)quinolin-8-ol | CC1=CC=CC(=N1)NC(C1=CC=C2C=CC=NC2=C1O)C1=CC(=C(C=C1)F)F | C22H17F2N3O
